US08669234B2
2,2′-Diiodo-biphenyl-4,4′-dicarboxylic acid dimethyl ester (3.24 g, 6.21 mmol) was dissolved in 20 mL THF and KOH (1.02 g, 2.5 eq.) was added, followed by 5 mL water. The reaction was stirred at room temperature overnight. The reaction was heated to 50° C. for 7 hours. The reaction was cooled to room temperature. Organic solvent was removed by rotovap. The aqueous layer was acidified with concentrated HCl to give pale white solid. The solid was filtered and dried on vacuum overnight to give the product 2,2′-Diiodo-biphenyl-4,4′-dicarboxylic acid (2.74 g, yield 89%).

reactant | 2,2′-Diiodo-biphenyl-4,4′-dicarboxylic acid dimethyl ester | 6.21 mmol, 3.24 g | COC(=O)C1=CC(=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)I)I | C16H12I2O4
reactant | KOH | 1.02 g, 2.5 eq. | [OH-].[K+]
reactant | water | 5 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2,2′-Diiodo-biphenyl-4,4′-dicarboxylic acid | 2.74 g, yield 89% | IC1=C(C=CC(=C1)C(=O)O)C1=C(C=C(C=C1)C(=O)O)I | C14H8I2O4
